US08293768B2
Synthesis of 2-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-4-methyl-N-(pyridin-2-ylmethyl)thiazole-5-carboxamide
Following the procedure as described in Example 32, making variations as required to replace 2-(3-((5-chlorobenzo[b]thiophen-3-yl)methyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid with 2-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid to react with pyridin-2-ylmethanamine, the title compound was obtained as a colorless solid in 54% yield: mp 183-185° C.; 1H NMR (300 MHz, DMSO-d6) δ 8.60-8.56 (m, 2H), 7.85-7.80 (m, 1H), 7.45-7.23 (m, 6H), 4.55 (d, J=6.0 Hz, 2H), 4.49 (s, 2H), 4.07 (t, J=9.0 Hz, 2H), 3.52 (t, J=9.0 Hz, 2H) 2.55 (s, 3H); MS (ES+) m/z 426.2 (M+1).

reactant | 2-(3-((5-chlorobenzo[b]thiophen-3-yl)methyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | ClC1=CC2=C(SC=C2CN2C(N(CC2)C=2SC(=C(N2)C)C(=O)O)=O)C=C1 | C17H14ClN3O3S2
reactant | 2-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | FC1=CC=C(CN2C(N(CC2)C=2SC(=C(N2)C)C(=O)O)=O)C=C1 | C15H14FN3O3S
reactant | pyridin-2-ylmethanamine | N1=C(C=CC=C1)CN | C6H8N2
product | 2-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-4-methyl-N-(pyridin-2-ylmethyl)thiazole-5-carboxamide | 54% yield | FC1=CC=C(CN2C(N(CC2)C=2SC(=C(N2)C)C(=O)NCC2=NC=CC=C2)=O)C=C1 | C21H20FN5O2S
